US06790854B2
Bis(2-hydroxyethyl)Benzylamine (1 g) was dissolved in dichloromethane (20 ml), added with thionyl chloride (1.9 ml) with ice cooling and stirred at room temperature for 2.5 hours. The reaction mixture was added with water (10 ml) under ice cooling, and adjusted to pH 7 with saturated aqueous sodium hydrogencarbonate. The layers were separated, and the aqueous layer was further extracted with dichloromethane (20 ml). The organic layer was dried over anhydrous magnesium sulfate, and then the solvent was evaporated under reduced pressure to obtain bis(2-chloroethyl)Benzylamine (1.090 g).

reactant | Bis(2-hydroxyethyl)Benzylamine | 1 g | OCCN(CC1=CC=CC=C1)CCO | C11H17NO2
reactant | thionyl chloride | 1.9 ml | S(=O)(Cl)Cl | Cl2OS
reactant | water | 10 ml | O | H2O
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | bis(2-chloroethyl)Benzylamine | 1.090 g | ClCCN(CC1=CC=CC=C1)CCCl | C11H15Cl2N
